US05493030
A mixture of 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-one (0.17 g) and cerium trichloride heptahydrate (0.172 g) in tetrahydrofurn/methanol (12 mL, 4/1) was trea=ed with sodium borohydride (0.035 g). After 0.5 hours, the reaction was diluted with ethyl acetate and washed with brine. Drying over magnesium sulfate was followed by filtration and solvent removal. Chromatography (hexanes/methylene chloride/ether, 1/1/1) gave the product 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ol (0.088 g) as a solid m.p. 108.0°-111.5° C.

reactant | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-one | 0.17 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(CC1)=O)C | C24H24O7S
reactant | cerium trichloride heptahydrate | 0.172 g | O.O.O.O.O.O.O.[Cl-].[Cl-].[Cl-].[Ce+3]
reactant | methanol | 12 mL | CO | CH4O
reactant | sodium borohydride | 0.035 g | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ol | 0.088 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(CC1)O)C | C24H26O7S
